US05219874
To a solution of 4-(methylthio)phenol(5.0 g) in methylene chloride (100 mls) was added 30% nitric acid absorbed on silica (9.29 g) and the mixture stirred at room temperature for 3 hrs. The mixture was filtered and washed with methylene chloride. The solvent was evaporated and the residue was purified by flash chromatography eluting with ethyl acetate and hexane (15:85 v/v) to give 2-nitro-4-(methylthio)phenol as an orange solid (2.22 g); NMR (200 MHz, CDCl3): 2.50(3H,s), 7.10(1H,d,J=8 Hz), 7.51(1H,dd,J=8 Hz), 7.95(1H,d,J=3 Hz).

reactant | 4-(methylthio)phenol | 5.0 g | CSC1=CC=C(C=C1)O | C7H8OS
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | methylene chloride | 100 mls | C(Cl)Cl | CH2Cl2
product | 2-nitro-4-(methylthio)phenol | 2.22 g | [N+](=O)([O-])C1=C(C=CC(=C1)SC)O | C7H7NO3S
